US07834007B2
To a solution of (R)-methyl 3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamido)propanoate (2.44 g, 5 mmol) in THF (50 mL) was added a solution of lithium hydroxide (420 mg, 10 mmol) in water (15 mL) at room temperature. After 1 h, most of the THF was removed and neutralized with 1.0 M hydrogen chloride to give (R)-3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamido)propanoic acid as a white solid in 95% yield. 1H-NMR (CD3OD) δ 7.97 (s, 1H), 7.66 (d, J=8 Hz, 1H), 7.60 (s, 1H), 7.51-7.48 (m, 2H), 7.33 (d, J=8 Hz, 1H), 7.27-7.24 (m, 1H), 7.12 (s, 1H), 4.61-4.58 (m, 1H), 4.14-4.08 (m, 2H), 3.76-3.73 (m, 2H), 3.13-2.84 (m, 4H), 2.54 (s, 3H), 1.90-1.84 (m, 4H), 1.48-1.34 (m, 2H); MS (ESI) 474 (M+H) ; Rf=1.89.

reactant | (R)-methyl 3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamido)propanoate | 5 mmol, 2.44 g | CC=1C=C(C=C2C=NNC12)C[C@H](C(=O)OC)NC(=O)N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C27H29N5O4
reactant | lithium hydroxide | 10 mmol, 420 mg | [OH-].[Li+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | (R)-3-(7-methyl-1H-indazol-5-yl)-2-(4-(2-oxo-1,2-dihydroquinolin-3-yl)piperidine-1-carboxamido)propanoic acid | 95% yield | CC=1C=C(C=C2C=NNC12)C[C@H](C(=O)O)NC(=O)N1CCC(CC1)C=1C(NC2=CC=CC=C2C1)=O | C26H27N5O4
